* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE07\LTspice\FET01op.asc
Rg g N003 {Rg}
Vdd N001 0 {Vdd}
Vgg N003 0 {Vgg}
Rd N001 N002 {Rd}
J1 N002 g 0 JFET
.model NJF NJF
.model PJF PJF
.lib C:\Users\ruseler\AppData\Local\LTspice\lib\cmp\standard.jft
.op
.model JFET pjf(Beta=1m Vto=-6)
.param Vdd=-20 Vgg=-2 Rd=330 Rg=1Meg
.backanno
.end
